US04028386
8.15 g of potassium tert.-butylate were added to a solution of 38 g of triphenyl 2,2-ethylenedioxy-pentyl phosphonium bromide in 400 ml of dimethylformamide cooled to 0° C. and then 12.75 g of 6-methoxy-6-methyl-2-heptanone were added. The mixture was stirred for 4 hours at 0° C. and was then poured into water. The mixture was extracted with petroleum ether (b.p.= 40°-75° C.) and the extracts were washed with water, dried over sodium sulfate and evaporated to dryness. The yellow oil was chromatographed over silica and was eluted with a 8-2 benzene-ethyl acetate mixture to obtain 9.15 g of 2,2-ethylenedioxy-10-methoxy-6,10-dimethyl-5-undecene in the form of a colorless oil which was a mixture of the E and Z isomers with respect to the double bond in the 5-position. A supplementary chromatography under pressure and elution with a 9-1 benzene-ethyl acetate mixture gave a separation of the E and Z isomers.

reactant | triphenyl 2,2-ethylenedioxy-pentyl phosphonium bromide | 38 g | [Br-].C1(=CC=CC=C1)[P+](CC1(CCC)OCCO1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 6-methoxy-6-methyl-2-heptanone | 12.75 g | COC(CCCC(C)=O)(C)C | C9H18O2
reactant | water | O | H2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2,2-ethylenedioxy-10-methoxy-6,10-dimethyl-5-undecene | 9.15 g | C1OC(C)(CCC=C(CCCC(C)(C)OC)C)OC1 | C16H30O3
